US09353108B2
B) Ethyl 3-(benzyloxy)-4-iodo-5-isopropoxybenzoate
2-Iodopropane (1.47 mL) was added to a DMF (30 mL) suspension of ethyl 3-(benzyloxy)-5-hydroxy-4-iodobenzoate (2.94 g) and potassium carbonate (1.53 g), and the mixture was stirred at 60° C. for 2 hours. The reaction mixture was allowed to cool to room temperature, and then, water was added thereto, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (2.72 g).

reactant | 2-Iodopropane | 1.47 mL | IC(C)C | C3H7I
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | ethyl 3-(benzyloxy)-5-hydroxy-4-iodobenzoate | 2.94 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC)C=C(C1I)O | C16H15IO4
reactant | potassium carbonate | 1.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | Ethyl 3-(benzyloxy)-4-iodo-5-isopropoxybenzoate | 2.72 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC)C=C(C1I)OC(C)C | C19H21IO4
